US09315500B2
Step 4: {(1S,2R)-2-[5-(3-Methyl-1H-indol-7-ylamino)-4-oxo-3,4-dihydro-pyrido[3,4-d]pyridazin-7-ylamino]-cyclohexyl}-carbamic acid tert-butyl ester
To 7-chloro-5-(3-methyl-1H-indol-7-ylamino)-3H-pyrido[3,4-d]pyridazin-4-one (177 mg, 0.543 mmol) in NMP (1 ml) in a sealable glass vial, was added DIPEA (0.190 ml, 1.087 mmol) and tert-butyl(1S,2R)-2-aminocyclohexylcarbamate (233 mg, 1.087 mmol). The vial was capped to close and the reaction mixture was heated on a sandbath at 120° C. for 3 days. The resulting mixture was poured into water (20 ml), and extracted with EtOAc (20 ml). The organic phase was washed with water and brine, dried over Na2SO4, then concentrated under vacuum. The residue was triterated with DCM, then collected by filtration and dried to give a gummy solid.

reactant | 7-chloro-5-(3-methyl-1H-indol-7-ylamino)-3H-pyrido[3,4-d]pyridazin-4-one | 0.543 mmol, 177 mg | ClC1=CC2=C(C(NN=C2)=O)C(=N1)NC=1C=CC=C2C(=CNC12)C | C16H12ClN5O
reactant | DIPEA | 1.087 mmol, 0.190 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl(1S,2R)-2-aminocyclohexylcarbamate | 1.087 mmol, 233 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | water | 20 ml | O | H2O
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | {(1S,2R)-2-[5-(3-Methyl-1H-indol-7-ylamino)-4-oxo-3,4-dihydro-pyrido[3,4-d]pyridazin-7-ylamino]-cyclohexyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1[C@@H](CCCC1)NC1=CC2=C(C(NN=C2)=O)C(=N1)NC=1C=CC=C2C(=CNC12)C)=O | C27H33N7O3
